US20010024833A1
2-(4-Carboxyphenyl)benzimidazole
Resin-bound 4-carboxybenzaldehyde (subn. 0.65 mmol/g, 400 mg, 0.26 mmol) was suspended in DMA (3 mL) and treated with 1,2-phenylenediamine (2.6 mmol) and TCNE (2.6 mmol). The suspension was sonicated for 1 h and shaken at 25° C. for an additional 22 h. The resin was filtered, washed with DMA, DCM, and dried under high vacuum. The benzimidazole was cleaved from the solid support with 20% (v/v) TFA in DCM (2×5 mL, 15 min) and the combined filtrates were evaporated to give the title compound. 1H NMR (d6-DMSO) δ 7.35-7.43 (m, 2H), 7.69-7.78 (m, 2H), 8.19 (d, 2H, J=8.3 Hz), 8.26-8.34 (m, 2H), 12.50-14.20 (br s, CO2H). MS (API-ES+) m/z 239 (M+H).

reactant | 4-carboxybenzaldehyde | 0.26 mmol, 400 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | 1,2-phenylenediamine | 2.6 mmol | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | TCNE | 2.6 mmol | C(#N)C(=C(C#N)C#N)C#N | C6N4
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 2-(4-Carboxyphenyl)benzimidazole | C(=O)(O)C1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2 | C14H10N2O2
